US06686347B2
4b) 4-Hydroxymethylphthalazin-1(2H)-one
With the exclusion of moisture, a solution of 155 ml (1.19 mol) isobutyl chloroformate in 620 ml THF is added dropwise to a suspension of 207 g (1.089 mol) phthalazin-1 (2H)-one-4-carboxylic acid in 6 l THF and 166 ml (1.188 mol) triethylamine at about 10° C. After stirring for 3 h at RT, the mixture is filtered and the residue washed with 0.5 l THF. The yellow filtrate is cooled to 15° C., then 93 g (2.46 mol) sodium borohydride is added and the suspension stirred for about 8 h at RT. To complete the reduction, another 10 g sodium borohydride is added and the mixture heated for 5 h to 40° C. Then 0.5 l water and finally 0.5 l of 5 N HCl are added dropwise at 15° C. and the turbid solution is stirred for 30 min. The reaction mixture is diluted with 3 l EtOAc and 2 l semisaturated brine, the aqueous phase is separated off and extracted 3 times with 2 l EtOAc. The organic phases are washed twice each time with semisaturated brine and brine, dried (Na2SO4) and concentrated by evaporation. Stirring in water at 90° C., cooling and filtration yield the title compound; m.p. 199-201° C.; 1H-NMR (DMSO-d6) 12.52 (s, HN), 8.25 (d, 1H), 8.11 (d, 1H), 7.9 (m, 2H), 5.49 (t, HO), 4.68 (d, 2H); FAB-MS (M+H)+=177.

reactant | isobutyl chloroformate | 1.19 mol, 155 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | phthalazin-1 (2H)-one-4-carboxylic acid | 1.089 mol, 207 g | C1(NN=C(C2=CC=CC=C12)C(=O)O)=O | C9H6N2O3
reactant | triethylamine | 1.188 mol, 166 ml | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 2.46 mol, 93 g | [BH4-].[Na+]
reactant | sodium borohydride | 10 g | [BH4-].[Na+]
reactant | HCl | 5 N, 0.5 l | Cl | ClH
solvent | THF | 620 ml | C1CCOC1 | C4H8O
solvent | THF | 6 l | C1CCOC1 | C4H8O
solvent | EtOAc | 3 l | CCOC(=O)C | C4H8O2
solvent | brine | [Cl-].[Na+].O
solvent | water | 0.5 l | O | H2O
product | 4-Hydroxymethylphthalazin-1(2H)-one | OCC1=NNC(C2=CC=CC=C12)=O | C9H8N2O2
